US04448990
A solution was prepared by dissolving 0.7 g. of dl-2-benzyloxy-6-azido-5,6,7,8-tetrahydro-1-naphthalenecarboxamide in 50 ml. of ethanol. The solution was placed in a low pressure hydrogenation apparatus and hydrogenated over a palladium-on-carbon catalyst at about 60 psi. After the theoretical quantity of hydrogen had been absorbed, the hydrogenation mixture was removed from the apparatus and the catalyst separated by filtration. Evaporation of the solvent from the filtrate yielded dl-2-hydroxy-6-amino-5,6,7,8-tetrahydro-1-naphthalenecarboxamide. The residue was dissolved in methanol and gaseous hydrogen chloride passed into the methanol solution, thus forming the hydrochloride salt. Ether was added to the solution to the point of incipient precipitation and the solution was cooled. Crystalline dl-2-hydroxy-6-amino-5,6,7,8-tetrahydro-1-naphthalenecarboxamide hydrochloride thus obtained melted at 245° C.; yield=0.3 g.

reactant | 2-benzyloxy-6-azido-5,6,7,8-tetrahydro-1-naphthalenecarboxamide | C(C1=CC=CC=C1)OC1=C(C=2CCC(CC2C=C1)N=[N+]=[N-])C(=O)N | C18H18N4O2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-hydroxy-6-amino-5,6,7,8-tetrahydro-1-naphthalenecarboxamide | OC1=C(C=2CCC(CC2C=C1)N)C(=O)N | C11H14N2O2
